US06608063B2
Synthesis of N-(2-{[6-(2,4-dichlorophenyl)-5-nitropyrazin-2-yl]amino}ethyl)(tert-butoxy)carboxamide
To a solution of 3-(2,4-dichlorophenyl)-5-bromo-2-nitropyrazine (1.4 g, 4.0 mmol) in DMF (10 ml) were added Boc-ethylenediamine (960 mg, 6.0 mmol) and DIPEA (1.5 ml). The solution was stirred overnight at 80° C. The solution was cooled to room temperature, taken in ethyl acetate and water. The layers were separated and the organic layer was washed with water and brine, dried, concentrated and purified to afford the title product.

reactant | 3-(2,4-dichlorophenyl)-5-bromo-2-nitropyrazine | 4.0 mmol, 1.4 g | ClC1=C(C=CC(=C1)Cl)C=1C(=NC=C(N1)Br)[N+](=O)[O-] | C10H4BrCl2N3O2
reactant | Boc-ethylenediamine | 6.0 mmol, 960 mg | C(=O)(OC(C)(C)C)NCCN | C7H16N2O2
reactant | DIPEA | 1.5 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | N-(2-{[6-(2,4-dichlorophenyl)-5-nitropyrazin-2-yl]amino}ethyl)(tert-butoxy)carboxamide | ClC1=C(C=CC(=C1)Cl)C1=C(N=CC(=N1)NCCNC(=O)OC(C)(C)C)[N+](=O)[O-] | C17H19Cl2N5O4
